US06686347B2
8a) 3-(Pyridin-3-yl)propan-1-one
A mixture of 6.08 g (20 mmol) (formylmethylene)triphenylphosphorane (Fluka; Buchs/Switzerland) and 2.14 g (20 mmol) freshly distilled 3-pyridinecarbaldehyde in 200 ml benzene is stirred for 3 h at 80° C. After the addition of a further 0.30 g (formylmethylene)-triphenylphosphorane, the mixture is stirred for another 3 h at 80° C. The cooled benzene solution is extracted with 250 ml, 100 ml and finally 50 ml 0.1 N HCl. The acidic H2O phases are finally extracted with 150 ml ether and the organic phases discarded. The combined acidic H2O phases are covered with a supernatant 150 ml ether and adjusted to alkaline pH with 100 ml 1 N NaOH. The H2O phase is separated off and extracted 3 times with 150 ml EtOAc each time. Drying (Na2SO4) and partial evaporation of the organic phases yield 0.4 l of a solution of 3-(pyridin-3-yl)propen-1-one in EtOAc. Hydrogenation of the above solutions in the presence of 5% Pd/C, filtration of the catalyst, evaporation and column chromatography (SiO2; EtOAc) yield the title compound; TLC (EtOAc) Rf=0.30; FAB-MS (M+H)+=136.

reactant | (formylmethylene)triphenylphosphorane | 20 mmol, 6.08 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
reactant | 3-pyridinecarbaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
reactant | (formylmethylene)-triphenylphosphorane | 0.30 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-(Pyridin-3-yl)propan-1-one | N1=CC(=CC=C1)CCC=O | C8H9NO
